US07709468B2
Step B: 8-Cyclopropylmethyl-2-(4-fluorophenyl)imidazo[1,2-a]pyrazine
To a suspension of (cyclopropylmethyl)triphenylphosphonium bromide (Alfa Aesar, 20.3 g, 51 mmol) in dry DME (100 mL) kept between about −30° C. and −40° C. was added a 2.5M solution of n-butyllithium in hexanes (20.4 mL, 51 mmol) over 10 min. After stirring between about −30° C. and −40° C. for about 1 h, 8-chloro-2-(4-fluorophenyl)imidazo[1,2-a]pyrazine (5.74 g, 23.2 mmol) was added. The mixture was warmed to ambient temperature, then stirred at about 85° C. for about 2 h, at which point a solution of Na2CO3 (2.70 g, 25.5 mmol) in water (50 mL) was added and heating was continued for about 15 h. After cooling to ambient temperature, the mixture was partitioned between 0.5 N HCl and CHCl3 and the aqueous phase washed two more times with CHCl3. The combined organic phase was extracted six times with 0.5 N HCl. The combined aqueous phase was rendered alkaline with NaOH and extracted with Et2O. After drying over Na2SO4 and concentration, the crude material was purified by silica gel chromatography with heptane/EtOAc (gradient 30-100% EtOAc) to give 3.77 g (61%) of the title compound as an orange solid: LC/MS (Table 1, Method g) Rt=2.78 min; MS m/z: 268.2 (M+H)+.

reactant | (cyclopropylmethyl)triphenylphosphonium bromide | 51 mmol, 20.3 g | [Br-].C1(CC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | C(CCC)[Li]
reactant | 8-chloro-2-(4-fluorophenyl)imidazo[1,2-a]pyrazine | 23.2 mmol, 5.74 g | ClC=1C=2N(C=CN1)C=C(N2)C2=CC=C(C=C2)F | C12H7ClFN3
reactant | Na2CO3 | 25.5 mmol, 2.70 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 100 mL | COCCOC | C4H10O2
solvent | water | 50 mL | O | H2O
product | 8-Cyclopropylmethyl-2-(4-fluorophenyl)imidazo[1,2-a]pyrazine | 3.77 g, 61% | C1(CC1)CC=1C=2N(C=CN1)C=C(N2)C2=CC=C(C=C2)F | C16H14FN3
